US06300352B1
a) 2-(2-Bromo-phenyl)-N-methylacetamide
To a solution of 2-bromophenyl acetic acid (2.15 g) in dichloromethane (100 ml) was added methylamine (2M solution in tetrahydrofuran, 6 ml), 4-dimethylaminopyridine (1.32 g) and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (2.055 g). The mixture was left to stir at room temperature for 16 hours, after which the organic portion was washed with 2M aqueous hydrogen chloride, dried over magnesium sulfate and filtered. The filtrate was concentrated to give a solid (2.04 g)

reactant | 2-bromophenyl acetic acid | 2.15 g | BrC1=C(C=CC=C1)CC(=O)O | C8H7BrO2
reactant | methylamine | 2M, 6 ml | CN | CH5N
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 2.055 g | Cl.CN(CCCN=C=NCC)C
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 1.32 g | CN(C1=CC=NC=C1)C | C7H10N2
product | 2-(2-Bromo-phenyl)-N-methylacetamide | 2.04 g | BrC1=C(C=CC=C1)CC(=O)NC | C9H10BrNO
